US09029531B2
Step A: methyl 2-(6-methoxypyridin-2-yl)acetate
To the solution of LDA (18.3 mL, 36.5 mmol) in THF (120 mL) cooled to −78° C. was added 2-methoxy-6-methylpyridine (1.5 g, 12.2 mmol) in THF (15 mL) dropwise, and then the mixture was stirred at −78 degree for 2 h. Dimethyl carbonate (1.2 mL, 14.6 mmol) was added quickly and continued to stir at −78° C. for 15 min. The reaction was quenched by H2O at −78° C. The solution was extracted with ethyl acetate, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified with a standard method to give desired compound.

reactant | LDA | 36.5 mmol, 18.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | 2-methoxy-6-methylpyridine | 12.2 mmol, 1.5 g | COC1=NC(=CC=C1)C | C7H9NO
reactant | Dimethyl carbonate | 14.6 mmol, 1.2 mL | C(OC)(OC)=O | C3H6O3
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | methyl 2-(6-methoxypyridin-2-yl)acetate | COC1=CC=CC(=N1)CC(=O)OC | C9H11NO3
